US04097669
130.5 g (0.66 mole) of 2-bromo-5-trifluoromethyl-1,3,4-thiadiazole were added dropwise to a solution of 98.1 g (0.66 mole) of 3,4dichloro-thiophenol and 57.6 g (0.66 mole) of triethylamine in 500 ml of ethanol. An exothermic effect was observed and a white precipitate separated out. The mixture was stirred for a further 2 hours under reflux, concentrated to half in vacuo and introduced into 1 liter of ice water. The white precipitate was filtered off, dried over phosphorus pentoxide and recrystallized from about 300 ml of petroleum ether. 147 g (76% of theory) of 2-(3',4' -dichlorophenylthio)-5-trifluoromethyl-1,3,4-thiadiazole of melting point 46° C were obtained.

reactant | 2-bromo-5-trifluoromethyl-1,3,4-thiadiazole | 0.66 mole, 130.5 g | BrC=1SC(=NN1)C(F)(F)F | C3BrF3N2S
reactant | 3,4dichloro-thiophenol | 0.66 mole, 98.1 g | ClC=1C=C(C=CC1Cl)S | C6H4Cl2S
reactant | triethylamine | 0.66 mole, 57.6 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(3',4' -dichlorophenylthio)-5-trifluoromethyl-1,3,4-thiadiazole | 147 g, 76% | ClC=1C=C(C=CC1Cl)SC=1SC(=NN1)C(F)(F)F | C9H3Cl2F3N2S2
